US08404722B2
under an N2 atmosphere, 4-nitrobenzamide (5.3 g, 32 mmol) and 3-chlorophenacyl bromide (4.9 g, 21 mmol) were combined in NMP (3.0 mL) and heated to 135° C. After 2.5 hours at 135° C., the reaction was diluted with 20 mL of toluene and allowed to cool to room temperature. The solid was removed by filtration and the filtrate was concentrated in vacuo. The resulting solid from concentration of the filtrate was triturated with ethyl acetate. The solid was collected by filtration and afforded 4-(3-chlorophenyl)-2-(4-nitrophenyl)oxazole (2.74 g, 43% yield). ESI m/z=301.0 (M+H+).

reactant | 4-nitrobenzamide | 32 mmol, 5.3 g | [N+](=O)([O-])C1=CC=C(C(=O)N)C=C1 | C7H6N2O3
reactant | 3-chlorophenacyl bromide | 21 mmol, 4.9 g | ClC=1C=C(C(CBr)=O)C=CC1 | C8H6BrClO
solvent | NMP | 3.0 mL | CN1CCCC1=O | C5H9NO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3-chlorophenyl)-2-(4-nitrophenyl)oxazole | 2.74 g, 43% yield | ClC=1C=C(C=CC1)C=1N=C(OC1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H9ClN2O3
